US05610144
C--tert-Butyl (2RS,4R)-2-phenyl-4-thiazolidinecarboxylate may be prepared as follows: 15 cm3 of concentrated sulphuric acid are added dropwise to a suspension of 53.7 g of (2RS,4R)-2-phenyl-4-thiazolidinecarboxylic acid in 590 cm3 of chloroform cooled to a temperature in the vicinity of 5° C. The reaction mixture is saturated with isobutene for 5 hours while stirring and while maintaining the temperature at 5° C. After returning to a temperature in the vicinity of 20° C., stirring is continued for 20 hours. The solution is brought to a pH of 8 by addition of a saturated aqueous sodium bicarbonate solution, then the aqueous phase is separated and extracted with 2 times 300 cm3 of chloroform. The combined organic phases are washed with 2 times 300 cm3 of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure at 40° C. The oily residue obtained is purified by chromatography on silica [eluent: ethyl acetate/cyclohexane (20/80 by volume)]. The fractions containing the expected product are combined, then concentrated to dryness under reduced pressure. 42.8 g of tert-butyl (2RS,4R)-2-phenyl-4thiazolidinecarboxylate are thus obtained in the form of a pale yellow oil, a (40/60 by weight) mixture of the (2R,4R) and (2S,4R) isomers, used as it is in subsequent syntheses.

reactant | sulphuric acid | 15 cm3 | S(O)(O)(=O)=O | H2O4S
reactant | (2RS,4R)-2-phenyl-4-thiazolidinecarboxylic acid | 53.7 g | C1(=CC=CC=C1)C1SC[C@H](N1)C(=O)O | C10H11NO2S
reactant | isobutene | C=C(C)C | C4H8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 590 cm3 | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl (2RS,4R)-2-phenyl-4thiazolidinecarboxylate | 42.8 g | C1(=CC=CC=C1)C1SC[C@H](N1)C(=O)OC(C)(C)C | C14H19NO2S
